US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(2,4-dichloro-3-methylphenyl)isoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(2,4-dichlorophenyl)isoxazole (0.3 g) and methyl iodide (0.08 ml) were subjected to reaction and post-treatment in a similar manner to that described in Example 14(a) to obtain the title compound (0.14 g, 45%) as a colorless powder.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(2,4-dichlorophenyl)isoxazole | 0.3 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=C(C=C(C=C1)Cl)Cl | C16H18Cl2N2O4
reactant | methyl iodide | 0.08 ml | CI | CH3I
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(2,4-dichloro-3-methylphenyl)isoxazole | 0.14 g, 45% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=C(C(=C(C=C1)Cl)C)Cl | C17H20Cl2N2O4
